US08492582B2
Potassium carbonate (0.075 g), potassium iodide (0.090 g), and N-(2-chloroethyl)morpholine hydrochloride (0.041 g) were added to an N,N-dimethylacetamide (1.8 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-hydroxybenzamido)-4-phenylbenzoate (0.090 g), followed by stirring at 100° C. for 1 hour. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium bicarbonate, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 80-25% hexane/ethyl acetate] to obtain 0.058 g of tert-butyl 2-(2-(benzyloxy)-5-(2-(morpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoate as a light yellow solid.

reactant | Potassium carbonate | 0.075 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.090 g | [I-].[K+]
reactant | N-(2-chloroethyl)morpholine hydrochloride | 0.041 g | Cl.ClCCN1CCOCC1
reactant | tert-butyl 2-(2-(benzyloxy)-5-hydroxybenzamido)-4-phenylbenzoate | 0.090 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)O | C31H29NO5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylacetamide | 1.8 mL | CN(C(C)=O)C | C4H9NO
product | tert-butyl 2-(2-(benzyloxy)-5-(2-(morpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.058 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCOCC1 | C37H40N2O6
